US08357693B2
2-chloro-N-(2-(dimethylamino)ethyl)acetamide
A suspension of 2-chloroacetic acid (214 mg, 2.27 mmol), PyBOP® (1.18, 2.27 mmol), DIEA (1.18 mL, 6.81 mmol) in CH2Cl2 (1 mL) was stirred at RT for 10-15 minutes. This solution of activated acid was added to a suspension of N1,N1-dimethylethane-1,2-diamine (249 μL, 2.27 mmol) and CH2Cl2 (4 mL). The reaction mixture was stirred at RT for 1.5 h. Diluted with more CH2Cl2 and extracted with H2O (3×). Organic layer was dried under Na2SO4 and concentrated in vacuo to give the desired product 2-chloro-N-(2-(dimethylamino)ethyl)acetamide.

reactant | 2-chloroacetic acid | 2.27 mmol, 214 mg | ClCC(=O)O | C2H3ClO2
reactant | PyBOP | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | DIEA | 6.81 mmol, 1.18 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | N1,N1-dimethylethane-1,2-diamine | 2.27 mmol, 249 μL | CN(CCN)C | C4H12N2
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
product | 2-chloro-N-(2-(dimethylamino)ethyl)acetamide | ClCC(=O)NCCN(C)C | C6H13ClN2O
